data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC1=C2C=C(Br)C(=O)N(C(C)C)C2=NC(N)=N1.O.O=C([O-])[O-].OB(O)C1=NNC=C1.[K+].[K+].[Pd:2]|(1, 2)",28,6,reaction_9,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:1])C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC1=NC(N)=NC2=C1C=C(Br)C(=O)N2C(C)C.O.O=C([O-])[O-].OB(O)C1=NNC=C1.[K+].[K+]|(2, 1)",28,5,reaction_9,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:1][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC1=NC(N)=NC2=C1C=[C:2]([Br:3])C(=O)N2C(C)C.O.O=C([O-])[O-].OB(O)C1=NNC=C1.[K+].[K+]|(1, 2);((2, 3), 1)",28,4,reaction_9,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC1=NC(N)=NC2=C1C=[C]([Pd-2:4]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[Br:2])C(=O)N2C(C)C.O.O=C([O-])[O-:1].OB(O)C1=NNC=C1.[K+:3].[K+]|(1, 4);((4, 2), 3)",28,3,reaction_9,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC1=NC(N)=NC2=C1C=[C]([Pd-2:3]([O]C(=O)[O-])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N2C(C)C.O.O[B:1](O)[C:2]1=NNC=C1.[K+].[K][Br]|(3, 2);((2, 1), 3)",28,2,reaction_9,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC1=NC(N)=NC2=C1C=[C]([Pd-2:3]([C]1=NNC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([O:1]C(=O)[O-])[B:2](O)O)C(=O)N2C(C)C.O.[K+].[K][Br]|((3, 1), 2);((2, 3), 3)",28,1,reaction_9,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC1=NC(N)=NC2=C1C=[C:2]([Pd-2:3]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:1]1=NNC=C1)C(=O)N2C(C)C.O.O=C([O-])OB(O)O.[K+].[K][Br]|((3, 1), 2);((2, 3), 3)",28,0,reaction_9,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.COC(=O)C1=CC=CN=C1Cl.O=C([O-])[O-].OB(O)C1=CC=CC(Br)=C1.[Na+].[Na+].[Pd:1]|(2, 1)",21,6,reaction_0,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.COC(=O)C1=CC=CN=C1Cl.O=C([O-])[O-].OB(O)C1=CC=CC(Br)=C1.[Na+].[Na+]|(1, 2)",21,5,reaction_0,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:3][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.COC(=O)C1=CC=CN=[C:1]1[Cl:2].O=C([O-])[O-].OB(O)C1=CC=CC(Br)=C1.[Na+].[Na+]|(3, 1);((1, 2), 3)",21,4,reaction_0,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.COC(=O)C1=CC=CN=[C]1[Pd-2:2]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[Cl:3].O=C([O-])[O-:4].OB(O)C1=CC=CC(Br)=C1.[Na+:1].[Na+]|(4, 2);((2, 3), 1)",21,3,reaction_0,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.COC(=O)C1=CC=CN=[C]1[Pd-2:2]([O]C(=O)[O-])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O[B:3](O)[C:1]1=CC=CC(Br)=C1.[Na+].[Na][Cl]|(2, 1);((1, 3), 2)",21,2,reaction_0,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.COC(=O)C1=CC=CN=[C]1[Pd-2:2]([C]1=CC=CC(Br)=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([B:1](O)O)[O:3]C(=O)[O-].[Na+].[Na][Cl]|((2, 3), 1);((1, 2), 2)",21,1,reaction_0,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.COC(=O)C1=CC=CN=[C:1]1[Pd-2:2]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:3]1=CC=CC(Br)=C1.O=C([O-])OB(O)O.[Na+].[Na][Cl]|((2, 1), 3);((3, 2), 2)",21,0,reaction_0,USPTO_suzuki,train
